datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCCC(C)C1C(=O)[N:21]([H:20])C(=S)N=C1[O-].CC[N:10](O)CC>>CCCC(C)C1C(=O)[N-:21]C(=S)N=C1[O-].CC[N+:10](O)(CC)[H:20] 10=20;20,21=21",
"Cn1cnc2c([O-:10])[nH+]cnc21.N#Cc1ccc(C(=O)[S:21][H:20])cc1>>Cn1cnc2c([O:10][H:20])[nH+]cnc21.N#Cc1ccc(C(=O)[S-:21])cc1 10=20;20,21=21",
"CN/C=[NH+]/c1cccc(-c2csc(N=C(N)N)[n+:21]2[H:20])c1.O=C(Cn1ccc2ccccc21)[O-:10]>>CN/C=[NH+]/c1cccc(-c2csc(N=C(N)N)[n:21]2)c1.O=C(Cn1ccc2ccccc21)[O:10][H:20] 10=20;20,21=21",
"CCOC(=O)C(CC(C)C)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCOC(=O)C(CC(C)C)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"C=C[C@H]1C[N:10]2CC[C@@H]1C[C@H]2[C@H](O)c1ccnc2ccc(OC)cc12.[NH3+]c1ccc(-c2sc3ccccc3[n+:21]2[H:20])cc1>>C=C[C@H]1C[N+:10]2([H:20])CC[C@@H]1C[C@H]2[C@H](O)c1ccnc2ccc(OC)cc12.[NH3+]c1ccc(-c2sc3ccccc3[n:21]2)cc1 10=20;20,21=21",
"C[NH:10]CCCN1c2ccccc2CCc2ccccc21.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>C[NH+:10](CCCN1c2ccccc2CCc2ccccc21)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"C[NH+](C)Cc1ccc(C[N:10](C)C)c(O)c1O.[O-]c1[nH]c2ccccc2[n+:21]1[H:20]>>C[NH+](C)Cc1ccc(C[N+:10](C)(C)[H:20])c(O)c1O.[O-]c1[nH]c2ccccc2[n:21]1 10=20;20,21=21",
"CC(C)(C)c1cc(C(C)(C)C)cc([NH2+:21][H:20])c1.C[C@H]1CC[C@H](C(=O)[O-:10])CC1>>CC(C)(C)c1cc(C(C)(C)C)cc([NH2:21])c1.C[C@H]1CC[C@H](C(=O)[O:10][H:20])CC1 10=20;20,21=21",
"CN[C@@H]1C[C@@H]1[NH:10]C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CN[C@@H]1C[C@@H]1[NH+:10](C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCc1ccccc1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCc1ccccc1)[H:20] 10=20;20,21=21",
"CC1(C)NC(=S)[N-:10]C1=S.CN[C@H]1C(C)[C@@H]1[NH+:21](C)[H:20]>>CC1(C)NC(=S)[N:10]([H:20])C1=S.CN[C@H]1C(C)[C@@H]1[NH:21]C 10=20;20,21=21",
"CC[N+:21](C)(N)[H:20].c1ccc2c(c1)CNCCC[NH:10]Cc1ccccc1OCCO2>>CC[N:21](C)N.c1ccc2c(c1)CNCCC[NH+:10]([H:20])Cc1ccccc1OCCO2 10=20;20,21=21",
"O=Cc1cc[n:10]c2ccccc12.c1ccc2n[n+:21]([H:20])ccc2c1>>O=Cc1cc[n+:10]([H:20])c2ccccc12.c1ccc2n[n:21]ccc2c1 10=20;20,21=21",
"CCOCC[NH+:21](c1cccc(C)c1)[H:20].CCc1cc(CC)c([O-:10])c(C(=O)NCC2CCC[NH+]2CC)c1OC>>CCOCC[NH:21]c1cccc(C)c1.CCc1cc(CC)c([O:10][H:20])c(C(=O)NCC2CCC[NH+]2CC)c1OC 10=20;20,21=21",
"BrCCCC[NH2+:21][H:20].COc1c([O-:10])ccc2c1C[N+]1(C)CCc3cc4c(cc3C1C2)OCO4>>BrCCCC[NH2:21].COc1c([O:10][H:20])ccc2c1C[N+]1(C)CCc3cc4c(cc3C1C2)OCO4 10=20;20,21=21",
"CCCCSCC(=O)[O-:10].Cc1cccc2ccc(C)[n+:21]([H:20])c12>>CCCCSCC(=O)[O:10][H:20].Cc1cccc2ccc(C)[n:21]c12 10=20;20,21=21",
"COc1cccc(OC)c1-c1nc2cnccc2[n:21]1[H:20].O=C([O-])CSc1[nH]c2cc3c(cc2[n:10]1)CCCC3>>COc1cccc(OC)c1-c1nc2cnccc2[n-:21]1.O=C([O-])CSc1[nH]c2cc3c(cc2[n+:10]1[H:20])CCCC3 10=20;20,21=21",
"NC(=S)C1([NH2+:21][H:20])CCCCC1.c1ccc(-c2ccc(NCC[NH+]3CCOCC3)[n:10]n2)cc1>>NC(=S)C1([NH2:21])CCCCC1.c1ccc(-c2ccc(NCC[NH+]3CCOCC3)[n+:10]([H:20])n2)cc1 10=20;20,21=21",
"C1C[NH+:21]([H:20])CCN1.NC(=NO)/C(N)=N/[O-:10]>>C1C[NH:21]CCN1.NC(=NO)/C(N)=N/[O:10][H:20] 10=20;20,21=21",
"CC[N+:21](CC)(CCOC(=O)c1ccccc1)[H:20].c1cnc2c(c1)[nH]c[n:10]2>>CC[N:21](CC)CCOC(=O)c1ccccc1.c1cnc2c(c1)[nH]c[n+:10]2[H:20] 10=20;20,21=21",
"NC(=O)CC[C@H](N)C(=O)N[C@@H](CCC(=O)[O:21][H:20])C(=O)O.Nc1ccc(P(=O)(Oc2ccccc2)[N-:10]c2nccs2)cc1>>NC(=O)CC[C@H](N)C(=O)N[C@@H](CCC(=O)[O-:21])C(=O)O.Nc1ccc(P(=O)(Oc2ccccc2)[N:10](c2nccs2)[H:20])cc1 10=20;20,21=21",
"Cc1c[n:10]c2cccc([N+](=O)[O-])c2c1NCCC[NH+](C)C.Cc1n[n+:21]([H:20])c(C)c(C)c1C>>Cc1c[n+:10]([H:20])c2cccc([N+](=O)[O-])c2c1NCCC[NH+](C)C.Cc1n[n:21]c(C)c(C)c1C 10=20;20,21=21",
"C[C@@H]1CCC[C@H](C)[NH:10]1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[C@@H]1CCC[C@H](C)[NH+:10]1[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C1C[NH:10]C1.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>C1C[NH+:10]([H:20])C1.O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[NH:10]CC(=O)NCCc1c[nH]cn1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[NH+:10](CC(=O)NCCc1c[nH]cn1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"N#CC(C(=O)[O-:10])c1ccccc1.N#CC(C(=O)[O:21][H:20])C1CCCCC1>>N#CC(C(=O)[O-:21])C1CCCCC1.N#CC(C(=O)[O:10][H:20])c1ccccc1 10=20;20,21=21",
"C#C[C@]1(O)C[C@H](C)[NH+:21]([H:20])[C@@H]2CCCC[C@H]21.CCCCCCCCCCCC[N:10](CC(C)O)CC(C)O>>C#C[C@]1(O)C[C@H](C)[NH:21][C@@H]2CCCC[C@H]21.CCCCCCCCCCCC[N+:10](CC(C)O)(CC(C)O)[H:20] 10=20;20,21=21",
"Nc1ccc2cc3ccc(Cl)cc3[n:10]c2c1.[O-]c1ccc(CC[NH2+:21][H:20])cc1>>Nc1ccc2cc3ccc(Cl)cc3[n+:10]([H:20])c2c1.[O-]c1ccc(CC[NH2:21])cc1 10=20;20,21=21",
"Clc1ccnc2c1ccc1c(Cl)cc[n:10]c12.c1cc(-c2ccncc2)c[n+:21]([H:20])c1>>Clc1ccnc2c1ccc1c(Cl)cc[n+:10]([H:20])c12.c1cc(-c2ccncc2)c[n:21]c1 10=20;20,21=21",
"Cc1ccc(C(O)C(C(=O)[O:21][H:20])c2ccc(C3CCCCC3)cc2)cc1.Nc1cc[n:10]c([S-])n1>>Cc1ccc(C(O)C(C(=O)[O-:21])c2ccc(C3CCCCC3)cc2)cc1.Nc1cc[n+:10]([H:20])c([S-])n1 10=20;20,21=21",
"N#Cc1cccc([O-:10])c1.OCCC[C@H]1CC[C@@H]2CCC[N+:21]12[H:20]>>N#Cc1cccc([O:10][H:20])c1.OCCC[C@H]1CC[C@@H]2CCC[N:21]12 10=20;20,21=21",
